US05852011
Methyl 4-nitrophenoxyacetate
Thionyl chloride (2.3 ml) was added dropwise under ice cooling to a solution of 5.0 g (25 mmol) of 4-nitrophenoxyacetic acid in 250 ml of methanol, followed by stirring at room temperature for 1 hour. After the solvent was distilled out under reduced pressure, the residue was dissolved in 50 ml of methylene chloride, followed by neutralization with an aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over sodium sulfate. The solvent was thereafter distilled out under reduced pressure, whereby 5.2 g of pale yellow powder were obtained (yield: 96%).

reactant | Thionyl chloride | 2.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-nitrophenoxyacetic acid | 25 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | methanol | 250 ml | CO | CH4O
product | Methyl 4-nitrophenoxyacetate | 5.2 g, yield: 96% | [N+](=O)([O-])C1=CC=C(OCC(=O)OC)C=C1 | C9H9NO5
